US07576108B2
b: (E)-3-Cyclopentyl-2-(5-methanesulfonyl-thiophen-3-yl)-prop-2-en-1-ol
According to method 20b was used (Z)-3-cyclopentyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (252 mg, 1.0 mmol), 4-Bromo-2-methanesulfonyl-thiophene (241 mg, 1.0 mmol), caesium fluoride ( 304 mg, 2.0 mmol) and tetrakis-(triphenylphosphin)-palladium(0) (58 mg, 0.05 mmol) to give 100 mg purified product. MS (m/e): 309.0 (M+Na).

reactant | (Z)-3-cyclopentyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 1.0 mmol, 252 mg | C1(CCCC1)\C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C14H25BO3
reactant | 4-Bromo-2-methanesulfonyl-thiophene | 1.0 mmol, 241 mg | BrC=1C=C(SC1)S(=O)(=O)C | C5H5BrO2S2
reactant | caesium fluoride | 2.0 mmol, 304 mg | [F-].[Cs+]
catalyst | tetrakis-(triphenylphosphin)-palladium(0) | 0.05 mmol, 58 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-3-Cyclopentyl-2-(5-methanesulfonyl-thiophen-3-yl)-prop-2-en-1-ol | C1(CCCC1)/C=C(/CO)\C1=CSC(=C1)S(=O)(=O)C | C13H18O3S2
